US04301297
Into a flask equipped with a stirrer, a thermometer and a distilling column are charged 750.8 g of methyl methacrylate, 268.7 g of dimethylaminoethanol containing 0.5% by weight of moisture, and 6.0 g of phenothiazine as a polymerization inhibitor. The mixture is heated with stirring until it boils. The reaction mixture is refluxed until the temperature at the top of the column reaches 95° C., and the azeotropic mixture of methyl methacrylate and water is then distilled at a reflux ratio of 10:1. When the amount of the collected filtrate (methyl methacrylate, water and a small amount of methanol) reaches 55 g, the distillation is stopped. The reaction mixture is then cooled to 80° C. and 7.5 g of di-n-butyltin oxide is added. The resulting mixture is heated until it boils. The azeotropic mixture of the methanol formed and methyl methacrylate is refluxed for 20 minutes, and the reaction mixture is then reacted while part of the azeotropic mixture is withdrawn from the system at a reflux ratio of 15:1. During the reaction, the temperature at the top of the distilling column is kept at 65°-70° C. The esterification reaction is completed in 4.5 hours. The reaction mixture is distilled under reduced pressure as it is to obtain 430.1 g of dimethylaminoethyl methacrylate. This yield corresponds to 91.2% based on the starting dimethylaminoethanol.

reactant | methyl methacrylate | 750.8 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | dimethylaminoethanol | 268.7 g | CN(C)CCO | C4H11NO
catalyst | phenothiazine | 6.0 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | water | O | H2O
product | dimethylaminoethyl methacrylate | 430.1 g | C(C(=C)C)(=O)OCCN(C)C | C8H15NO2
